US04362666
To a stirred solution of 3.1 g of 2-(3-oxo-n-butyl)-1,2,3,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2.1-c][1,4]benzodiazepine (Example 24, No. 10) in 100 ml of diethyl ether is added 550 mg of lithium aluminumhydride in small portions. The mixture is stirred at room temperature overnight, combined with 0.6 ml of water, 0.6 ml of 15% aqueous sodium hydroxide and 0.6 ml of water in this order, filtered and evaporated. The residue is taken up in the minimum amount of isopropanol and the solution neutralized with fumaric acid, to yield the 2-(3-hydroxy-n-butyl)-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine monofumarate melting at 181°-183°.

reactant | 2-(3-oxo-n-butyl)-1,2,3,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2.1-c][1,4]benzodiazepine | 3.1 g | O=C(CCN1CC2N(C3=C(CN4C2=CC=C4)C=CC=C3)CC1)C | C19H23N3O
reactant | lithium | 550 mg | [Li] | Li
reactant | water | 0.6 ml | O | H2O
reactant | sodium hydroxide | 0.6 ml | [OH-].[Na+]
reactant | water | 0.6 ml | O | H2O
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-(3-hydroxy-n-butyl)-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine monofumarate | C(\C=C\C(=O)O)(=O)O.OC(CCN1CC2N(C3=C(CN4C2=CC=C4)C=CC=C3)CC1)C | InChI=1S/C19H25N3O.C4H4O4/c1-15(23)8-10-20-11-12-22-17-6-3-2-5-16(17)13-21-9-4-7-18(21)19(22)14-20;5-3(6)1-2-4(7)8/h2-7,9,15,19,23H,8,10-14H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
